US05767116
1-Phenylpiperidine-4-carboxamide (1.5 g) was added portionwise to a stirring suspension of lithium aluminium hydride (0.5 g) in dry tetrahydrofuran (100 ml) under nitrogen. The resulting suspension was stirred at ambient termperature for 2 hours, then heated under reflux for 2 hours. The mixture was cooled, and water (0.5 ml), then concentrated sodium hydroxide solution (0.5 ml) were added. The resulting precipitate was removed by filtration (Celite). The filtrate was dried over magnesium sulphate, and the solvent removed in vacuo to yield 1-(1-phenylpiperid-4-yl)methylamine (1.15 g).

reactant | 1-Phenylpiperidine-4-carboxamide | 1.5 g | C1(=CC=CC=C1)N1CCC(CC1)C(=O)N | C12H16N2O
reactant | lithium aluminium hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.5 ml | O | H2O
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(1-phenylpiperid-4-yl)methylamine | 1.15 g | C1(=CC=CC=C1)N1CCC(CC1)CN | C12H18N2
